US07678788B2
(1,4-Diaza-bicyclo[3.2.2]-non-4-yl)-5-(4-aminophenyl)-furan-2-yl-methanone chloromethylium chloride salt (Compound G1)
Ethylisothiocyanate (182 mg; 2.09 mmol) solved in dichloromethane (20 ml) was added dropwise to a mixture of (1,4-diaza-bicyclo[3.2.2]non-4-yl)-5-(4-aminophenyl)-furan-2-yl-methanone and dichloromethane (10 ml) at 5° C. The mixture was allowed to stir for 4 hours at 5° C. and 11 hours at room temperature. The solvent volume was reduced to a third and the solid product was isolated by filtration. Mp. >300° C.

reactant | Ethylisothiocyanate | 2.09 mmol, 182 mg | C(C)N=C=S | C3H5NS
reactant | (1,4-diaza-bicyclo[3.2.2]non-4-yl)-5-(4-aminophenyl)-furan-2-yl-methanone | N12CCN(C(CC1)CC2)C(=O)C=2OC(=CC2)C2=CC=C(C=C2)N | C18H21N3O2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (1,4-Diaza-bicyclo[3.2.2]-non-4-yl)-5-(4-aminophenyl)-furan-2-yl-methanone chloromethylium chloride salt | [Cl-].Cl[CH2+].N12CCN(C(CC1)CC2)C(=O)C=2OC(=CC2)C2=CC=C(C=C2)N | InChI=1S/C18H21N3O2.CH2Cl.ClH/c19-14-3-1-13(2-4-14)16-5-6-17(23-16)18(22)21-12-11-20-9-7-15(21)8-10-20;1-2;/h1-6,15H,7-12,19H2;1H2;1H/q;+1;/p-1
